US06048982
1) 2,3,3-Trimethyl-1-(5-methylcarbonyloxypentyl)-3H-benzo[b]azolium iodide
A mixture of 2,3,3-trimethyl-3H-benzo[b]azole (2.39 g, 15 mmol) and 5-iodopentyl acetate (3.84 g, 15 mmol) in 1,2-dichlorobenzene (15 ml) were heated at 120° C. for 6 h and then cooled to ambient temperature. The mixture was then dripped into Et2O which precipitated the title compound as a red gum which was collected and used without any further purification in subsequent reactions.

reactant | 2,3,3-trimethyl-3H-benzo[b]azole | 15 mmol, 2.39 g | CC=1C(C2=C(N1)C=CC=C2)(C)C | C11H13N
reactant | 5-iodopentyl acetate | 15 mmol, 3.84 g | C(C)(=O)OCCCCCI | C7H13IO2
reactant | Et2O | CCOCC | C4H10O
solvent | 1,2-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,3,3-Trimethyl-1-(5-methylcarbonyloxypentyl)-3H-benzo[b]azolium iodide | [I-].CC=1C(C2=C([N+]1CCCCCOC(=O)C)C=CC=C2)(C)C | InChI=1S/C18H26NO2.HI/c1-14-18(3,4)16-10-6-7-11-17(16)19(14)12-8-5-9-13-21-15(2)20;/h6-7,10-11H,5,8-9,12-13H2,1-4H3;1H/q+1;/p-1
